US06057311
a. (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-5-benzyloxycarbonylmethylaminocarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
PyBroP (233 mg, 0.5 mmol) was added to a solution of (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate (264 mg, 0.5 mmol), glycine benzyl ester p-toluenesulphonate (170 mg, 0.5 mmol) and diisopropylethylamine (260 μl, 1.5 mmol in dry DCM (5 ml). The reaction mixture was stirred at room temperature for 18 hours, diluted with DCM (20 ml), washed successively with 2N HCl solution (25 ml), brine (25 ml) and dried (MgSO4). Filtration an evaporation of the solvent gave the crude product (350 mg) which was purified by flash chromatography on silica gel with ethyl acetate-DCM (3:7) as eluant, affording the product as a colourless oil. (190 mg, 55%).

reactant | PyBroP | 0.5 mmol, 233 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine-5-carboxylate | 0.5 mmol, 264 mg | C(C)(=O)N1[C@@H](C(N(C2=C(C(C[C@H]1C(=O)[O-])=O)C=CC=C2)CC2=CC=CC=C2)=O)CC21CC3CC(CC(C2)C3)C1
reactant | glycine benzyl ester p-toluenesulphonate | 0.5 mmol, 170 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (3R,5S)-4-acetyl-3-(1-adamantyl)methyl-1-benzyl-5-benzyloxycarbonylmethylaminocarbonyl-2,7-dioxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C)(=O)N1[C@@H](C(N(C2=C(C(C[C@H]1C(=O)NCC(=O)OCC1=CC=CC=C1)=O)C=CC=C2)CC2=CC=CC=C2)=O)CC21CC3CC(CC(C2)C3)C1 | C41H45N3O6
